US08859591B2
Step E: (+/−)-ethyl N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alaninate
To a mixture of ethyl 3-aminopropionate hydrochloride (23 mg, 0.19 mmol), (+/−)-4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoic acid (44 mg, 0.096 mmol), hydroxybenzotriazole hydrate (15 mg, 0.096 mmol), and triethylamine (55 ul, 0.39 mmol) in dichloromethane (0.96 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (21 mg, 0.11 mmol). The mixture was stirred for 2 hours at ambient temperature. The reaction was diluted with water and the organic layer was separated. The aq. layer was extracted with dichloromethane (2×) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was used without further purification.

reactant | ethyl 3-aminopropionate hydrochloride | 0.19 mmol, 23 mg | Cl.NCCC(=O)OCC
reactant | (+/−)-4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoic acid | 0.096 mmol, 44 mg | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)O)C=C1)(F)F | C20H16F6N4O2
reactant | hydroxybenzotriazole hydrate | 0.096 mmol, 15 mg | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 0.39 mmol, 55 ul | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.11 mmol, 21 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 0.96 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (+/−)-ethyl N-{4-[4,4,4-trifluoro-1-({6-[4-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}amino)butyl]benzoyl}-beta-alaninate | FC(CCC(NC=1C=NC(=CC1)N1N=CC(=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)(F)F | C25H25F6N5O3
